US06476030B1
a) 5-Hydroxymethyl-4-phenylpyrazol-3-one
4-Hydroxy-3-phenyl-2-furanone (3 g, 0.017 mol) was dissolved in ethanol (17 ml) with hydrazine hydrate (0.83 ml, 0.017 mol) and heated at reflux for 10 days (over this time the solvent evaporated). The residue was redissolved in ethanol (17 ml) and heated at reflux then allowed to cool and the solid that crystallised out was collected by filtration (2.2 g, mp=173° C.). Data for the title compound: 1H NMR (360 MHz, d6-DMSO) δ 4.45 (1H, s), 5.31 (1H, s), 7.14 (1H, t, J=7.3 Hz), 7.34 (2H, t, J=7.3 Hz), 7.55 (2H, d, J=7.3 Hz); MS (ES+) m/e 191 [MH]+.

reactant | 4-Hydroxy-3-phenyl-2-furanone | 0.017 mol, 3 g | OC=1C(C(OC1)=O)C1=CC=CC=C1 | C10H8O3
reactant | hydrazine hydrate | 0.017 mol, 0.83 ml | O.NN
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | 5-Hydroxymethyl-4-phenylpyrazol-3-one | OCC1=C(C(N=N1)=O)C1=CC=CC=C1 | C10H8N2O2
